US05786441
A "one pot" preparation of 2-(2-lithioethyl)-1-methylpyrrolidine
2-(2-chloroethyl)-1-methylpyrrolidine was dissolved in cyclohexane and reacted with about two molar equivalents of t-butyllithium in pentane in an inert atmosphere including argon or nitrogen. The resulting mixture was agitated gently at room temperature for about an hour. The mixture was allowed to stand overnight and used to initiate the polymerization of butadiene and styrene as described in the following examples.

reactant | 2-(2-chloroethyl)-1-methylpyrrolidine | ClCCC1N(CCC1)C | C7H14ClN
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | butadiene | C=CC=C | C4H6
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | pentane | CCCCC | C5H12
product | 2-(2-lithioethyl)-1-methylpyrrolidine | [Li]CCC1N(CCC1)C | InChI=1S/C7H14N.Li/c1-3-7-5-4-6-8(7)2;/h7H,1,3-6H2,2H3;
